reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@@:4]2([O:5][H:12])[C:6]([H:13])([H:14])[C@@:7]12[H:15])[H:8]>>[O:1]([C:2][C:3]([C:4]1([O:5][H:12])[C:6]([H:13])([H:14])[C:7]1([H:9])[H:15])([H:10])[H:11])[H:8],71.54274181229259
[C:1]([C:2](=[C:3]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9].[O:4]([N+:6]#[C-:5])[H:13]>>[C:1]([C@@:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9],35.245181264042785
[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([H:9])([H:10])[H:11])([N:6]=[C:5]=[C:3]([C:4]([H:13])([H:14])[H:15])[H:12])([H:7])[H:8],100.80620335129801
[C:1](=[C:2]([C:3]([C@@:4]([C:5]([H:16])([H:17])[H:18])([C:6]#[N:7])[H:15])([H:13])[H:14])[H:11])([H:9])[H:10].[H:8][H:12]>>[C:1]([C:2]([C:3]([C@@:4]([C:5]([H:16])([H:17])[H:18])([C:6]#[N:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],81.64462189238591
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@@:4]2([O:5][H:12])[C:6]([H:13])([H:14])[C@@:7]12[H:15])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@@:7]1([C:4]([O:5][H:12])=[C:6]([H:13])[H:14])[H:15])[H:8],71.71508790441979
[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])=[C:5]=[C:6]([H:12])[H:16])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5]#[C:6][H:16])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],82.6911098619425
[C:1]([C:2]([O:3][C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C-:2]([O+:3]=[C:4]([C:5]([O:6][H:16])([H:14])[H:15])[H:13])[H:11])([H:7])([H:8])[H:9].[H:10][H:12],83.4788287995494
[N:1]([C:2](=[O:3])[C:4]([C:5]([O:6][H:13])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8]>>[C:5]([O:6][H:13])[H:11].[N:1]([C:2](=[O:3])[C:4]([H:9])([H:10])[H:12])([H:7])[H:8],83.9538889728684
[C:1]([C:2]1([C:5]#[N:6])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C:2]1=[C:5]=[N:6][C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9],87.8753422751414
[N:1]#[C:2][C@@:3]1([H:6])[C-:4]([H:8])[N+:5]1([H:7])[H:9]>>[N:1]#[C:2][C@@:3]1([H:6])[C:4]([H:7])([H:8])[N:5]1[H:9],14.638487189253205
[C:1]([C@@:2]([O:3][H:12])([C@@:4]([O:5][H:14])([C:6](=[O:7])[H:15])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:4](=[O:5])[C:6](=[O:7])[H:15])([H:11])[H:13])([H:8])([H:9])[H:10].[O:3]([H:12])[H:14],72.3193120270637
[C:1]([C:2]1([C:4]([H:13])([H:14])[H:15])[C:3]([H:10])([H:12])[C:6]([H:11])([H:16])[C:5]1)([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[C:5]#[C:6][H:16])([H:7])([H:8])[H:9],38.773670324168016
[N:1](=[C:2](/[N:3]([C:4](=[O:5])[H:9])[H:8])[H:7])\[H:6]>>[N:1]1([H:6])[C:2]([H:7])=[N:3][C:4]([H:8])([H:9])[O:5]1,113.882277697267
[C:1]([C@:2]12[C:3][C@@:4]1([C:6]([H:10])([H:11])[H:12])[O:5]2)([H:7])([H:8])[H:9]>>[C:1]([C:2]#[C:3][C:4](=[O:5])[C:6]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9],2.362759351447295
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([O:5][H:15])([H:13])[H:14])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([H:13])[H:14])([H:6])([H:7])[H:8].[O:5]([H:9])[H:15],68.69583236354491
[C-:3]#[O+:4].[C:1]([O:2][H:8])([H:5])([H:6])[H:7]>>[C:1]([O:2][C:3](=[O:4])[H:8])([H:5])([H:6])[H:7],56.75618113995719
[O:1]=[C:2]([C:3]([O:4][C:5](=[O:6])[H:10])([H:8])[H:9])[H:7]>>[O:1]([C@@:2]1([H:7])[C:3]([H:8])([H:9])[O:4]1)[C:5](=[O:6])[H:10],62.5248273314336
[N:1]1([H:8])[C@:2]2([H:9])[O:3][C:4]([H:10])([H:11])[C:5]([H:12])([H:13])[C:6]1=[N:7]2>>[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8],10.905473642452705
[C:1]([C@@:2]([O:3][H:11])([C:4]([N+:6]#[C-:5])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]#[N:6])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],39.102023436187295
[C:1]([C:2]([C@@:3]1([H:12])[C:4]([H:13])([H:14])[N:5]1[C:6]([H:15])([H:16])[H:17])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3][C:4]([N:5]([C:6]([H:15])([H:16])[H:17])[H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9],75.2667778865178
[C:1]([C:2]1([H:11])[C:3]([H:12])=[C:4]1[H:14])([H:8])([H:9])[H:10].[C:5](=[C:6]([O:7][H:13])[H:17])([H:15])[H:16]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10],22.845506081574307
[O:1]([C:2]([C:3](=[C:4]=[C:5]([H:11])[H:12])[C:6](=[O:7])[H:13])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]#[C:4][C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8],62.60422743395061
[C:1]([O:2]/[C:3](=[C:4](\[C:5]([O:6][H:16])([H:14])[H:15])[H:12])[H:11])([H:7])([H:8])[H:9].[H:10][H:13]>>[C:1]([O:2][C:3]([C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],77.15973867967301
[N:1](/[C:2]([O:3][H:11])=[C:4](\[O:5]/[C:6](=[N:7]/[H:13])[H:12])[H:10])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9],33.72841034767801
